US08404836B2
1.2 g (57.1 mmol) of lithium borohydride is added in portions to a solution of 5.4 g (19.0 mmol) of [3-methoxy-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethyl acetate diluted in 60 ml of tetrahydrofuran. After stirring at 60° C. for 2 hours and then at room temperature for 15 hours, the reaction mixture is poured into 100 ml of a saturated aqueous solution of ammonium chloride cooled to 0° C. and then extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated. The raw product obtained is purified by silica column chromatography, eluted with a heptane/ethyl acetate mixture 50/50 to give 3.55 g (74%) of 2-[3-methoxy-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethanol in the form of a colorless oil.

reactant | lithium borohydride | 57.1 mmol, 1.2 g | [BH4-].[Li+]
reactant | [3-methoxy-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethyl acetate | 19.0 mmol, 5.4 g | C(C)(=O)OCCC1=CC(=C(C=C1)OCOCCOC)OC | C15H22O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-[3-methoxy-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethanol | 3.55 g, 74% | COC=1C=C(C=CC1OCOCCOC)CCO | C13H20O5
